US04208202
(b) 1-(3'-Trifluoromethanesulphonamido-4',6'-dimethylphenyl)-piperidine
20.5 g (0.073 mol) of trifluoromethanesulphonic acid anhydride are added dropwise, at -5° C., to a solution of 13.5 g (0.0664 mol) of 1(3'-amino-4',6'-dimethylphenyl)-piperidine and 8 g of triethylamine in 140 ml of methylene chloride. The mixture is allowed to warm to room temperature and is stirred for a further one hour. The reaction solution is extracted twice with 1 N KOH solution. The inorganic phase is washed with CHCl3 and filtered and the pH of the filtrate is adjusted to 4-5 with concentrated HCl solution. The product is extracted with CHCl3 and the extract is dried (MgSO4) and evaporated. 5.3 g (24%) of dirty yellow crystals are isolated. Melting point 92°-94° C.

reactant | trifluoromethanesulphonic acid anhydride | 0.073 mol, 20.5 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 1(3'-amino-4',6'-dimethylphenyl)-piperidine | 0.0664 mol, 13.5 g | NC=1C=C(C(=CC1C)C)N1CCCCC1 | C13H20N2
reactant | triethylamine | 8 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 140 ml | C(Cl)Cl | CH2Cl2
product | 1-(3'-Trifluoromethanesulphonamido-4',6'-dimethylphenyl)-piperidine | 5.3 g, 24% | FC(S(=O)(=O)NC=1C=C(C(=CC1C)C)N1CCCCC1)(F)F | C14H19F3N2O2S
